US04486434
A solution of sulphur trioxide (150 ml) in 1,1,2-tri-fluorotrichloroethane (550 ml) was added over 30 min to a suspension of 2-(4-aminobutyl)-3-methylpyridine hydrobromide (14.2 g) [prepared by reacting 2-(4-aminobutyl)-3-methyl-pyridine with hydrobromic acid (0.89M)] in 1,1,2-trifluoro-trichloroethane and to this mixture was added liquid bromine (5.56 g). The mixture was heated under reflux for ca 16 hr. The solvent was removed by distillation and unbrominated starting material was removed by acetylation as described in Example 1(h) to yield 5-bromo-2-(4-amino-butyl)-3-methylpyridine (6.49 g) as an oil.

reactant | sulphur trioxide | 150 ml | S(=O)(=O)=O | O3S
reactant | 2-(4-aminobutyl)-3-methylpyridine hydrobromide | 0.89M, 14.2 g | Br.NCCCCC1=NC=CC=C1C
reactant | bromine | 5.56 g | BrBr | Br2
solvent | 1,1,2-tri-fluorotrichloroethane | 550 ml | FC(C(F)(Cl)Cl)(F)Cl | C2Cl3F3
product | 5-bromo-2-(4-amino-butyl)-3-methylpyridine | 6.49 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
